US06653476B2
3—Chloro-2-chloromethyl-5,8-dihydro-4-(4-methoxyphenyl)-6H-thiopyrano[4′,3′:4,5]thieno[2,3-b]pyridine
To a mixture of 2-amino-4,5-dihydro-3-(4-methoxybenzoyl)-7H-thieno[2,3-c]thiopyrane (9.557 kg), 1,3-dicholoroacetone (4.172 kg) in tetrahydrofuran (48,79 L) was added aluminum chloride (5.424 kg) divided in 4 portions. Then, the mixture was stirred under reflux for 4.5 hours and toluene (38.74 L) was added at 10° C. or lower, followed by dropwise addition of water (47.79 L). After addition of toluene (56.83 L), the mixture was stirred and the organic layer was separated, washed with water, saturated aqueous sodium bicarbonate solution and then water. The solvent was distilled off until the content became 34.61 kg. Methanol (57.34 L) was added dropwise thereto at about 25° C. The mixture was stirred at 5° C. for 1 hour and crystals deposited were filtered off to obtain the titled compound (11.055 kg, 88.3%). 1H (CDCl3) δ: 2.18 (2H, t, J=5.7 Hz), 2.68 (2H, t, J=5.7 Hz), 3.90 (5H, s), 4.94 (2H, s), 7.01 (2H, d, J=8.7 Hz), 7.16 (2H, d, J=8.7 Hz).

reactant | 2-amino-4,5-dihydro-3-(4-methoxybenzoyl)-7H-thieno[2,3-c]thiopyrane | 9.557 kg | NC1=C(C2=C(CSCC2)S1)C(C1=CC=C(C=C1)OC)=O | C15H15NO2S2
reactant | aluminum chloride | 5.424 kg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | toluene | 38.74 L | C1(=CC=CC=C1)C | C7H8
reactant | water | 47.79 L | O | H2O
reactant | toluene | 56.83 L | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 48,79 L | O1CCCC1 | C4H8O
product | 3—Chloro-2-chloromethyl-5,8-dihydro-4-(4-methoxyphenyl)-6H-thiopyrano[4′,3′:4,5]thieno[2,3-b]pyridine | 11.055 kg, 88.3% | ClC=1C(=C2C(=NC1CCl)SC1=C2CCSC1)C1=CC=C(C=C1)OC | C18H15Cl2NOS2
